US07495018B2
3-[4-(3-methylphenyl)-5-(2-methyl-4-pyridyl)-1,3-thiazol-5-yl]-oxazolidin-2-one
To a solution of 2-chloroethyl[4-(3-methylphenyl)-5-(2-methyl-4-pyridyl)-1,3-thiazol-2-yl]carbamate (0.30 g, 0.80 mmol) in N,N-dimethylformamide (3 mL) was added potassium tert-butoxide (0.12 g, 1.1 mmol), and the mixture was stirred at room temperature for 1 hour. An aqueous sodium hydrogen carbonate solution was poured into the reaction mixture, and extracted with ethyl acetate. The extracts were washed with water, dried, and concentrated. The residue was purified by silica gel column chromatography (hexane-ethyl acetate=4:1) to obtain a crystal. This crystal was recrystallized from hexane-ethyl acetate, to obtain a title compound (0.20 g, yield 72%).

reactant | 2-chloroethyl[4-(3-methylphenyl)-5-(2-methyl-4-pyridyl)-1,3-thiazol-2-yl]carbamate | 0.80 mmol, 0.30 g | ClCCOC(NC=1SC(=C(N1)C1=CC(=CC=C1)C)C1=CC(=NC=C1)C)=O | C19H18ClN3O2S
reactant | potassium tert-butoxide | 1.1 mmol, 0.12 g | CC(C)([O-])C.[K+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 3-[4-(3-methylphenyl)-5-(2-methyl-4-pyridyl)-1,3-thiazol-5-yl]-oxazolidin-2-one | 0.20 g, yield 72% | CC=1C=C(C=CC1)C1=NCSC1(C1=CC(=NC=C1)C)N1C(OCC1)=O | C19H19N3O2S
